US06605607B1
3-(tert-Butyloxycarbonyl)-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine
A mixture of 3-(tert-butoxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine (4.78 g, 12.1 mmol), zinc cyanide (1.42 g, 15.6 mmol) and tetrakis-triphenylphosphine palladium (0) (1.4 g, 1.2 mmol, 10 mol %), in dry dimethylformamide (50 ml) was stirred at 100° C. for 3 h under argon. After cooling to room temperature the reaction mixture was diluted with ethyl acetate (120 ml) and filtered. The filtrate was washed with saturated aqueous sodium bicarbonate (100 ml), then water (2×50 ml), then brine (50 ml). The organic layer was dried over sodium sulfate and evaporated in vacuo to give brown oil, which was purified by chromatography on silica gel with 20-100% ethyl acetate-hexane elution to give the title compound (0.765 g, 23%) as a brown oil.

reactant | 3-(tert-butoxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 12.1 mmol, 4.78 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C16H20F3NO5S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 15.6 mmol, 1.42 g | [C-]#N.[Zn+2].[C-]#N
product | 3-(tert-Butyloxycarbonyl)-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.765 g, 23% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)C#N | C16H20N2O2
